US08669266B2
(i) 4-((S)-2-tert-Butoxycarbonylamino-4-methanesulfonyl-butyryl)-piperazine-1-carboxylic acid ethyl ester
To a solution of 2 g of (S)-2-tert-Butoxycarbonylamino-4-methanesulfonyl-butyric acid, 3.2 g of NEM and 2.3 g of TOTU in 10 ml of DMF, 1.2 g of Piperazine-1-carboxylic acid ethyl ester was added at RT and stirred for 2 h. The reaction mixture was diluted saturated aqueous sodium hydrogen carbonate solution and extracted with 400 ml of ethyl acetate. The organic phase was washed with diluted saturated aqueous sodium hydrogen carbonate solution and dried over MgSO4 and the solvents were removed under reduced pressure. The crude product was purified by chromatography on silica gel eluting with a gradient of n-heptane/ethyl acetate. The fractions containing the product were combined and the solvent evaporated under reduced pressure. Yield: 1.9 g.

reactant | (S)-2-tert-Butoxycarbonylamino-4-methanesulfonyl-butyric acid | 2 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CCS(=O)(=O)C | C10H19NO6S
reactant | TOTU | 2.3 g | [B-](F)(F)(F)F.CCOC(=O)C(=NOC(=[N+](C)C)N(C)C)C#N
reactant | Piperazine-1-carboxylic acid ethyl ester | 1.2 g | C(C)OC(=O)N1CCNCC1 | C7H14N2O2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 4-((S)-2-tert-Butoxycarbonylamino-4-methanesulfonyl-butyryl)-piperazine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1CCN(CC1)C([C@H](CCS(=O)(=O)C)NC(=O)OC(C)(C)C)=O | C17H31N3O7S
